US06392077B1
In the same apparatus and procedure as Example 1 above, 0.27 g (1.5 mmol) of tetrabutylphosphonium chloride, 2.15 g (15.0 mmol) of (chloromethyl)dimethylchlorosilane, and 6.10 g (45.0 mmol) of trichlorosilane were reacted at 150° C. for 10 hrs. The resulting mixture was distilled to give 2.18 g of 1,1,1,3-tetrachloro-3-methyl-1,3-disilabutane (yield; 60%).

reactant | (chloromethyl)dimethylchlorosilane | 15.0 mmol, 2.15 g | ClC[Si](Cl)(C)C | C3H8Cl2Si
reactant | trichlorosilane | 45.0 mmol, 6.10 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | tetrabutylphosphonium chloride | 1.5 mmol, 0.27 g | [Cl-].C(CCC)[P+](CCCC)(CCCC)CCCC
product | 1,1,1,3-tetrachloro-3-methyl-1,3-disilabutane | 2.18 g, yield; 60% | Cl[Si](C[Si](C)(C)Cl)(Cl)Cl | C3H8Cl4Si2
